US08748624B2
STEP B: 5-chloro-2-hydroxy-4-(trifluoromethyl)benzaldehyde
A 1M DCM solution of BBr3 (24.0 mL, 24.0 mmol) was added to neat 5-chloro-2-methoxy-4-(trifluoromethyl)benzaldehyde (3.4 g, 14.4 mmol) and the resulting mixture was heated to 50° C. After 1 h the resulting mixture was diluted with DCM and ice and the layers were separated. The aqueous phase was added was extracted with DCM and the combined organics were dried (Na2SO4), concentrated and purified via column chromatography to yield the title compound.

reactant | BBr3 | 24.0 mmol, 24.0 mL | B(Br)(Br)Br | BBr3
reactant | 5-chloro-2-methoxy-4-(trifluoromethyl)benzaldehyde | 14.4 mmol, 3.4 g | ClC=1C(=CC(=C(C=O)C1)OC)C(F)(F)F | C9H6ClF3O2
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM | 1M | C(Cl)Cl | CH2Cl2
product | 5-chloro-2-hydroxy-4-(trifluoromethyl)benzaldehyde | ClC=1C(=CC(=C(C=O)C1)O)C(F)(F)F | C8H4ClF3O2
